US06797726B1
In 4.25 mL of ethyl acetate is dissolved 0.85 g of 2-{[2-(2-benzo[b]thiophen-4-ylethoxy)ethyl]-(methyl)amino}-1-ethanol, to which is added 1.1 mL of 3.6 mol/L solution of dry hydrogen chloride in ethyl acetate. The mixture is stirred at ambient temperature for one hour and then at 5° C. for one hour. The reaction mixture is diluted with 10 mL of diisopropyl ether, and the deposited crystal is collected by filtration, washed with diisopropyl ether and dried. Thus, 0.81 g of 2-[[2-(2-benzo[b]thiophen-4-ylethoxy)ethyl](methyl)-amino)-1-ethanol hydrochloride is obtained.

reactant | 2-{[2-(2-benzo[b]thiophen-4-ylethoxy)ethyl]-(methyl)amino}-1-ethanol | 0.85 g | S1C2=C(C=C1)C(=CC=C2)CCOCCN(CCO)C | C15H21NO2S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 4.25 mL | C(C)(=O)OCC | C4H8O2
solvent | diisopropyl ether | 10 mL | C(C)(C)OC(C)C | C6H14O
product | 2-[[2-(2-benzo[b]thiophen-4-ylethoxy)ethyl](methyl)-amino)-1-ethanol hydrochloride | 0.81 g | Cl.S1C2=C(C=C1)C(=CC=C2)CCOCCN(CCO)C | InChI=1S/C15H21NO2S.ClH/c1-16(7-9-17)8-11-18-10-5-13-3-2-4-15-14(13)6-12-19-15;/h2-4,6,12,17H,5,7-11H2,1H3;1H
